*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X8M(-55to150[deg])/1.00e+01[uF]/2.5[V]
* Murata P/N :GCM155M8EA106ME08
* Property : C = 1.00e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155M8EA106ME08 Port1 Port2
C01 Port1 N01 8.07e-06
R01 Port1 N01 5.00e+06
L02 N01 N02 1.31e-10
R03 N02 N03 4.44e-03
C04 N03 N04 5.06e-04
R04 N03 N04 1.05e+01
C05 N04 N05 6.77e-04
R05 N04 N05 1.18e+00
C06 N05 N06 7.15e-04
R06 N05 N06 1.99e-01
C07 N06 N07 7.77e-04
R07 N06 N07 3.61e-02
C08 N07 N08 7.08e-04
R08 N07 N08 8.01e-03
C09 N08 N09 5.37e-04
R09 N08 N09 1.66e-03
L10 N09 N10 3.15e-11
R10 N09 N10 9.99e-02
L11 N10 N11 5.65e-11
R11 N10 N11 2.53e-02
L12 N11 N12 2.36e-10
R12 N11 N12 1.35e-02
C13 N12 N13 3.01e-05
L13 N12 N13 4.81e-11
R13 N12 N13 2.52e-03
C14 N13 N14 2.97e-05
L14 N13 N14 2.55e-11
R14 N13 N14 2.34e-03
C15 N14 Port2 2.66e-12
L15 N14 Port2 3.62e-11
R15 N14 Port2 3.40e+00
.ENDS GCM155M8EA106ME08
